US05736539
4-Benzyl-1-tert-butoxycarbonyl-2(S)-(3-hydroxy-1-propyl)piperazine
The title compound was prepared according to the procedure described in Example 2, Step B, except using 1-benzyl-3(S)-cyclohexoxycarbonylethylpiperazine-2,5-dione (13.9g, 38.8 mmol) and lithium aluminum hydride (7.8 g, 0.205 mol); the crude product was treated with di-tert-butyl dicarbonate (10.4 g, 47.7 mmol). The crude product was purified by column chromatography on silica gel, eluting with 50% ethyl acetate in hexane. The title compound was obtained as a clear oil, 3.5 g. NMR (CDCl3, 300 MHz) a 7.3 (5H, m), 4.10 (1H, bs), 3.85 (1H, bs), 3.65 (2H, dd, J=3, 6 Hz), 3.52 (1H, d, J=13 Hz), 3.38 (1H, d, J=13 Hz), 3.05 (1H, t, J=12 Hz), 2.75 (1H, d, J=12 Hz), 2.68 (1H, dd, J=10 Hz) 2.00 (5H, m), 1.70 (2H, m), 1.44 (9H, s).

reactant | 1-benzyl-3(S)-cyclohexoxycarbonylethylpiperazine-2,5-dione | 38.8 mmol, 13.9g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CCC(=O)OC1CCCCC1)=O | C20H26N2O4
reactant | lithium aluminum hydride | 0.205 mol, 7.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl dicarbonate | 47.7 mmol, 10.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 4-Benzyl-1-tert-butoxycarbonyl-2(S)-(3-hydroxy-1-propyl)piperazine | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCO | C19H30N2O3
